US08217069B2
2-Acetylamino-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one
A mixture of 2-amino-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one (29 mg) and acetic anhydride (3 mL) was stirred at 110° C. in a reaction vessel equipped with a reflux condenser for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in methanol (2 mL). To the solution were added sodium methoxide (28% methanol solution, 2 mL) and water (1 mL), and the mixture was stirred at room temperature for 15 minutes. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. To the residue was added a mixed solvent (n-hexane/ethyl acetate=1/1), and the precipitated crystals were collected by filtration. The collected crystals were washed with diethyl ether, and dried under reduced pressure to give the title compound (20 mg).

reactant | 2-amino-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one | 29 mg | NC1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)=O)OC | C21H18ClF2N5O5
reactant | acetic anhydride | 3 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetylamino-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one | 20 mg | C(C)(=O)NC1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)=O)OC | C23H20ClF2N5O6
